US08022063B2
[2,4-Dichloro-6-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid.
Prepared from (3,5-dichloro-2-hydroxyphenyl)-(1-phenyl-1H-pyrazol-4-yl)methanone and ethyl bromoacetate according to GP2 and GP3: LC/MS (an10p8): Rt 3.27 min, m/z 390.5 [M+1]+; 1H NMR (CDCl3): δ 4.72 (s, 2H), 7.38-7.51 (m, 4H), 7.57-7.58 (m, 1H), 7.70 (d, J=8.1 Hz, 2H), 8.06 (s, 1H), 8.36 (s, 1H), 9.23 (br s, 1H).

reactant | (3,5-dichloro-2-hydroxyphenyl)-(1-phenyl-1H-pyrazol-4-yl)methanone | ClC=1C(=C(C=C(C1)Cl)C(=O)C=1C=NN(C1)C1=CC=CC=C1)O | C16H10Cl2N2O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | [2,4-Dichloro-6-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid | ClC1=C(OCC(=O)O)C(=CC(=C1)Cl)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C18H12Cl2N2O4
